US07863291B2
To acetic acid (10 mL) cooled in an ice bath was added potassium thiocyanate (3.18 g, 32.8 mmol) and 6-(difluoromethoxy)pyridin-3-amine (1 g, 4.1 mmol). The reaction was cooled in an ice-salt bath until the reaction temperature reached <0° C. A solution of bromine (0.65 mL, 12.7 mmol) in acetic acid (3 mL) was added dropwise over 2 hours at a rate that maintained the reaction temperature <0° C. This gave a very thick mixture. After the addition was complete, the mixture was left to stir and allowed to slowly warm to room temperature overnight. After stirring overnight, water (5 mL) was added and the mixture was heated to 85° C. in an oil bath. This mixture was then filtered while still hot. The yellow filter cake was returned to the reaction flask, and an additional 5 mL acetic acid was added. The mixture was heated again to 85° C., and then filtered while still hot. The combined filtrates were cooled in an ice bath and neutralized to pH 8 with concentrated ammonium hydroxide. A yellow precipitate formed which was then collected by filtration. This crude material was purified by column chromatography (12-100% ethyl acetate/hexanes) to afford 5-(difluoromethoxy)thiazolo[5,4-b]pyridin-2-amine (321 mg, 1.48 mmol, 36.1% yield) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.64-7.81 (m, 2 H), 6.92 (d, J=8.53 Hz, 1 H). MS (LC/MS) R.T.=1.66; [M+H]+=218.10.

reactant | potassium thiocyanate | 32.8 mmol, 3.18 g | [S-]C#N.[K+]
reactant | 6-(difluoromethoxy)pyridin-3-amine | 4.1 mmol, 1 g | FC(OC1=CC=C(C=N1)N)F | C6H6F2N2O
reactant | bromine | 12.7 mmol, 0.65 mL | BrBr | Br2
reactant | water | 5 mL | O | H2O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-(difluoromethoxy)thiazolo[5,4-b]pyridin-2-amine | 1.48 mmol, 321 mg, 36.1% yield | FC(OC1=CC=C2C(=N1)SC(=N2)N)F | C7H5F2N3OS
